US07411072B2
Step C: Preparation of 5-bromo-1-(2-morpholin-4-yl-ethyl)-1,3-dihydro-benzoimidazol-2-one
In a 500-mL round-bottomed flask, mix 4-bromo-N1-(2-morpholin-4-yl-ethyl)-benzene-1,2-diamine 13.25 g, 44.1 mmol), NaHCO3 (5.4 g, 66.2 mmol), water (50 mL) and methanol (250 mL). Slowly add phenyl chloroformate (8.3 mL,66.2 mmol). Stirr the reaction for 1 h at room temperature and then add 5N NaOH (20 mL) and stir overnight at room temperature. Collect the solid by vacuum filtration and wash with methanol. HPLC (ISO60-10M) t=1.42 (97%), MS (ES) 326 (M+1).

reactant | 4-bromo-N1-(2-morpholin-4-yl-ethyl)-benzene-1,2-diamine | 44.1 mmol, 13.25 g | BrC=1C=C(C(=CC1)NCCN1CCOCC1)N | C12H18BrN3O
reactant | NaHCO3 | 66.2 mmol, 5.4 g | C(=O)(O)[O-].[Na+]
reactant | phenyl chloroformate | 66.2 mmol, 8.3 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | NaOH | 5N, 20 mL | [OH-].[Na+]
solvent | methanol | 250 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
product | 5-bromo-1-(2-morpholin-4-yl-ethyl)-1,3-dihydro-benzoimidazol-2-one | BrC1=CC2=C(N(C(N2)=O)CCN2CCOCC2)C=C1 | C13H16BrN3O2
